US04451484
Under a dry argon atmosphere a stirred solution of 4-(3-chloro[1,1'-biphenyl]-2-yl)butanoic acid (22.8 g, 0.083 mole) in toluene (500 ml) was heated at 65°. Oxalyl chloride (21 g, 0.166 mole) was added slowly to the reaction mixture. After complete addition the mixture was allowed to stir at 40° for approximately 18 hours. The solvent and excess oxalyl chloride were removed by distillation under reduced pressure. Further distillation under reduced pressure gave 4-(3-chloro[1,1'-biphenyl]-2-yl)butanoic acid chloride (b.p. 150°/0.04 mm) as a clear oil. The nmr spectrum was consistent with the proposed structure.

reactant | 4-(3-chloro[1,1'-biphenyl]-2-yl)butanoic acid | 0.083 mole, 22.8 g | ClC=1C(=C(C=CC1)C1=CC=CC=C1)CCCC(=O)O | C16H15ClO2
reactant | Oxalyl chloride | 0.166 mole, 21 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3-chloro[1,1'-biphenyl]-2-yl)butanoic acid chloride | ClC=1C(=C(C=CC1)C1=CC=CC=C1)CCCC(=O)Cl | C16H14Cl2O
